US04215220
324.0 Grams (2.0 mol) of 2,4-dichloroaniline, 400 ml absolute ethanol, 185.1 g (2.0 mol) of epichlorohydrin and 3 g of conc. hydrochloric acid are added together in this sequence with stirring and then allowed to stand for 12 days. The solution is thereafter concentrated in vacuum to a brown oily residue which is distilled in high vacuum. The main fraction, which boils between 130° C. and 153° C./0.01 Torr, is collected and redistilled, yielding 209 g of N-(3-chloro-2-hydroxypropyl)-2,4-dichloroaniline as a clear liquid, boiling at 142°-145° C./0.01 Torr.

reactant | 2,4-dichloroaniline | 2.0 mol | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | epichlorohydrin | 2.0 mol, 185.1 g | C(Cl)C1CO1 | C3H5ClO
reactant | hydrochloric acid | 3 g | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-(3-chloro-2-hydroxypropyl)-2,4-dichloroaniline | 209 g | ClCC(CNC1=C(C=C(C=C1)Cl)Cl)O | C9H10Cl3NO
